US07132419B2
Treatment of 5-ethoxy-1-tetralone with selenium dioxide as described in Reference Example 1A yielded 5-ethoxy-[1,2]naphthoquinone which was coupled with 2,3-diamino-benzoic acid, diacetate salt, as described to yield the title compound.

reactant | 5-ethoxy-1-tetralone | C(C)OC1=C2CCCC(C2=CC=C1)=O | C12H14O2
reactant | selenium dioxide | [Se](=O)=O | O2Se
product | 5-ethoxy-[1,2]naphthoquinone | C(C)OC1=C2C=CC(C(C2=CC=C1)=O)=O | C12H10O3
